US04024147
1-(2-Chloroethyl)-4-benzamidopiperidine
1 Gram of 1-(2-hydroxyethyl)-4-benzamidopiperidine suspended in 2 milliliters of dry benzene was treated with 0.62 gram of thionyl chloride. The stirred mixture was refluxed for 3 hrs., then cooled and filtered to give the title compound as a light grey solid. Crystallisation from ethanol-ether of this hydrochloride gave 0.8 grams (62%) of pale yellow needles, melting point 238.5° C.

reactant | 1-(2-hydroxyethyl)-4-benzamidopiperidine | OCCN1CCC(CC1)NC(C1=CC=CC=C1)=O | C14H20N2O2
reactant | thionyl chloride | 0.62 gram | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 2 milliliters | C1=CC=CC=C1 | C6H6
product | 1-(2-Chloroethyl)-4-benzamidopiperidine | ClCCN1CCC(CC1)NC(C1=CC=CC=C1)=O | C14H19ClN2O
